US04608373
In 150 ml of acetonitrile was suspended 11.48 g of N-hydroxyphthalimide. To the suspension was added 7.11 g of triethylamine and dissoled therein. To the solution was added a solution of 27.5 g of 4-chloromethyl-2-tritylaminothiazole dissolved in 200 ml of dichloromethane and the mixture was stirred on an oil bath of 80° C. for 7 hours. The reaction mixture thus obtained was concentrated and the residue formed was dissolved in ethyl acetate. The solution was washed with water, dried by anhydrous magnesium sulfate, and concentrated. The residue was applied to column chromatography and the product was eluted with chloroform to provide 14.5 g of (2-tritylamino-4-thiazolyl)methoxyphthalimide.

reactant | N-hydroxyphthalimide | 11.48 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triethylamine | 7.11 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloromethyl-2-tritylaminothiazole | 27.5 g | ClCC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (2-tritylamino-4-thiazolyl)methoxyphthalimide | 14.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)COC1=C2C(C(=O)NC2=O)=CC=C1 | C31H23N3O3S
